US07700624B2
E. Preparation of ethyl 3-methoxy-4-oxopiperidine-1-carboxylate
The title compound was prepared by taking 3,4,4-trimethoxypiperidine-1-carboxylate (210 mg, 0.00085 mol) in Methanol (5 mL, 0.1 mol) and adding 4 M of Hydrogen chloride in 1,4-dioxane (5 mL). The reaction was allowed to stir for 4 h at ambient temperature. The residue obtained by removing the solvent in vacuo was used in the next step as-is (170 mg, 99%). MS calculated for C9H15NO4: (M+H) 202; found 202.1.

reactant | 3,4,4-trimethoxypiperidine-1-carboxylate | 0.00085 mol, 210 mg | COC1CN(CCC1(OC)OC)C(=O)[O-]
reactant | Methanol | 0.1 mol, 5 mL | CO | CH4O
reactant | Hydrogen chloride | 4 M | Cl | ClH
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | ethyl 3-methoxy-4-oxopiperidine-1-carboxylate | COC1CN(CCC1=O)C(=O)OCC | C9H15NO4
